* Reusable one-stage SKY130 CTLE with source degeneration
.subckt CTLE inp inn outp outn vdd vss
+ params: RLOAD=1k RDEG=1k CDEG=0.5p ITAIL_VAL=100u WIN=10 LIN=0.15 WTAIL=20 LTAIL=0.5 RBIAS=11500

RDP vdd outp {RLOAD}
RDN vdd outn {RLOAD}

XMP outp inp srcp vss sky130_fd_pr__nfet_01v8 W={WIN} L={LIN}
XMN outn inn srcn vss sky130_fd_pr__nfet_01v8 W={WIN} L={LIN}

RS1 srcp tail {RDEG}
RS2 srcn tail {RDEG}
CD1 srcp tail {CDEG}
CD2 srcn tail {CDEG}

* Resistor-fed diode-connected reference and matched tail mirror.
* ITAIL_VAL is only the legacy target; actual current is measured.
RBIAS_REF vdd vbias {RBIAS}
XREF vbias vbias vss vss sky130_fd_pr__nfet_01v8 W={WTAIL} L={LTAIL}
XTAIL tail vbias vss vss sky130_fd_pr__nfet_01v8 W={WTAIL} L={LTAIL}
.ends CTLE
